US08232289B2
To a solution of 2′-chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]hydrochloride (0.35 g, 1.1 mmol) and ethyl 1-(3-chloropyridin-2-yl)-4-formyl-pyrazole-3-carboxylate (0.3 g, 1.0 mmol) in 1,2-dichloroethane (20 mL) is added N-methyl morpholine (0.33 g, 3.2 mmol) and molecular sieves (0.10 g). The reaction mixture is stirred at room temperature for 1 h. Sodium triacetoxyborohydride (0.58 g, 2.7 mmol) is added and stirred at room temperature for 16 h. After completion, the reaction mixture is filtered through celite and partitioned between dichloromethane (15 mL) and water (15 mL). The aqueous phase is extracted with dichloromethane (3×30 mL) and the combined organic extracts are dried over sodium sulfate and concentrated in vacuo. The crude mixture is purified by column chromatography over silica gel eluting with dichloromethane/methanol (98:2) to yield 0.4 g (67%) of ethyl 4-((2′-chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]-1-yl)methyl)-1-(3-chloro-2-pyridyl)-1H-pyrazole-3-carboxylate. MS (m/z): 543 (M+1).

reactant | 2′-chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]hydrochloride | 1.1 mmol, 0.35 g | Cl.ClC1=CC2=C(C3(OCC2(F)F)CCNCC3)S1
reactant | ethyl 1-(3-chloropyridin-2-yl)-4-formyl-pyrazole-3-carboxylate | 1.0 mmol, 0.3 g | ClC=1C(=NC=CC1)N1N=C(C(=C1)C=O)C(=O)OCC | C12H10ClN3O3
reactant | N-methyl morpholine | 3.2 mmol, 0.33 g | CN1CCOCC1 | C5H11NO
reactant | Sodium triacetoxyborohydride | 2.7 mmol, 0.58 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | ethyl 4-((2′-chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]-1-yl)methyl)-1-(3-chloro-2-pyridyl)-1H-pyrazole-3-carboxylate | 0.4 g, 67% | ClC1=CC2=C(C3(OCC2(F)F)CCN(CC3)CC=3C(=NN(C3)C3=NC=CC=C3Cl)C(=O)OCC)S1 | C23H22Cl2F2N4O3S
